US08604224B2
Step 2: Synthesis Method of N,N′-Bis(3-methylphenyl)-N,N′-bis[3-(9-phenyl-9H-fluoren-9-yl)phenyl]-pyrene-1,6-diami ne (abbreviation: 1,6mMemFLPAPrn)
Into a 100 mL three-neck flask were placed 0.6 g (1.7 mmol) of 1,6-dibromopyrene, 1.4 g (3.4 mmol) of 3-methylphenyl-3-(9-phenyl-9H-fluoren-9-yl)phenylamine, and 0.5 g (5.1 mmol) of sodium tert-butoxide. The air in the flask was replaced with nitrogen. To this mixture were added 21.0 mL of toluene and 0.2 mL of a 10% hexane solution of tri(tert-butyl)phosphine. The temperature of this mixture was set to 60° C., and 34.9 mg (0.1 mmol) of bis(dibenzylideneacetone)palladium(0) was added to the mixture. The temperature of this mixture was raised to 80° C., and the mixture was stirred for 3.0 hours. After that, 400 mL of toluene was added to the mixture, and the mixture was heated. While the mixture was kept hot, it was suction-filtered through Florisil (produced by Wako Pure Chemical Industries, Ltd., Catalog No. 540-00135), Celite (produced by Wako Pure Chemical Industries, Ltd., Catalog No. 531-16855), and alumina to give a filtrate. The filtrate was concentrated to give a solid, which was then purified by silica gel column chromatography (a developing solvent in which the ratio of hexane to toluene was 3:2) to give a yellow solid. Recrystallization of the obtained yellow solid from a mixed solvent of toluene and hexane gave 1.2 g of a yellow solid of the object of the synthesis in 67% yield.

reactant | 1,6-dibromopyrene | 1.7 mmol, 0.6 g | BrC1=CC=C2C=CC3=C(C=CC4=CC=C1C2=C34)Br | C16H8Br2
reactant | 3-methylphenyl-3-(9-phenyl-9H-fluoren-9-yl)phenylamine | 3.4 mmol, 1.4 g | CC=1C=C(C=CC1)NC1=CC(=CC=C1)C1(C2=CC=CC=C2C=2C=CC=CC12)C1=CC=CC=C1 | C32H25N
reactant | sodium tert-butoxide | 5.1 mmol, 0.5 g | CC(C)([O-])C.[Na+]
reactant | tri(tert-butyl)phosphine | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
catalyst | bis(dibenzylideneacetone)palladium(0) | 0.1 mmol, 34.9 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
solvent | toluene | 400 mL | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
solvent | toluene | 21.0 mL | C1(=CC=CC=C1)C | C7H8
product | N,N′-Bis(3-methylphenyl)-N,N′-bis[3-(9-phenyl-9H-fluoren-9-yl)phenyl]-pyrene-1,6-diami ne | 67% yield | CC=1C=C(C=CC1)N(C1=CC=C2C=CC=3C(=CC=C4C=CC1=C2C34)N(C3=CC(=CC=C3)C3(C4=CC=CC=C4C=4C=CC=CC34)C3=CC=CC=C3)C3=CC(=CC=C3)C)C3=CC(=CC=C3)C3(C4=CC=CC=C4C=4C=CC=CC34)C3=CC=CC=C3 | C80H56N2
